US07291642B2
1c) Benzyl [2-(4-cyanophenyl)ethyl]carbamate
With ice bath cooling, 5.82 ml (15.57 mmol) of benzyl chloroformate (45% in toluene) were added to a solution of 2.37 g (12.98 mmol) of 4-(2-aminoethyl)benzonitrile hydrochloride and 4.34 ml (31.14 mmol) of triethylamine in 95 ml of dichloromethane. The reaction mixture was stirred at room temperature overnight and then evaporated to dryness. The crude product obtained in this manner was purified by column chromatography on silica gel (mobile phase: petroleum ether/ethyl acetate 2:1 to 1:1).

reactant | benzyl chloroformate | 15.57 mmol, 5.82 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 4-(2-aminoethyl)benzonitrile hydrochloride | 12.98 mmol, 2.37 g | Cl.NCCC1=CC=C(C#N)C=C1
reactant | triethylamine | 31.14 mmol, 4.34 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 95 ml | ClCCl | CH2Cl2
product | Benzyl [2-(4-cyanophenyl)ethyl]carbamate | C(#N)C1=CC=C(C=C1)CCNC(OCC1=CC=CC=C1)=O | C17H16N2O2
